US07402680B2
1-(3-Chloro-benzyl)-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (159.0 mg) was prepared from 0.55 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 334 μL of 3-chlorobenzylamine, and 0.40 g of (2-nitro-vinyl)-benzene and without SiO2. MS (ESI): exact mass calculated for C20H19ClN2, 322.12; found, m/z 323.2 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.38-7.32 (m, 5H), 7.31-7.28 (m, 1H), 7.23-7.19 (m, 1H), 7.17-7.16 (m, 1H), 7.13 (s, 1H), 7.12-7.10 (m, 1H), 5.16 (s, 2H), 4.37 (s, 2H), 3.52 (t, J=6.3 Hz, 2H), 2.86 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 3-chlorobenzylamine | 334 μL | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | (2-nitro-vinyl)-benzene | 0.40 g | [N+](=O)([O-])C=CC1=CC=CC=C1 | C8H7NO2
product | 1-(3-Chloro-benzyl)-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 159.0 mg | ClC=1C=C(CN2C=C(C=3CNCCC32)C3=CC=CC=C3)C=CC1 | C20H19ClN2
